US06573293B2
5-[5-Fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (120 mg, 0.4 mmol) was shaken with EDC, HCl (96 mg, 0.5 mmol), anhydrous 1-hydroxy-benztriazole (68 mg, 0.5 mmol), and 2-(2-aminoethylpyridine purchased from Aldrich in anhydrous DMF (3 mL) for 2-3 days at room temperature. The reaction mixture was diluted with 1M NaHCO3 (1.5 ml), then with 8 ml of water. The precipitated crude product was collected by filtration, washed with water, dried and purified by crystallization or chromatography to give 5-[5-fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [2-(pyridin-1-yl)-ethyl]amide.

reactant | 5-[5-Fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.4 mmol, 120 mg | FC=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C16H13FN2O3
reactant | HCl | 0.5 mmol, 96 mg | Cl | ClH
reactant | 1-hydroxy-benztriazole | 0.5 mmol, 68 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-aminoethylpyridine | NCCC1=NC=CC=C1 | C7H10N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | 1M, 1.5 ml | C(=O)(O)[O-].[Na+]
solvent | water | 8 ml | O | H2O
solvent | EDC
product | 5-[5-fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [2-(pyridin-1-yl)-ethyl]amide | N1(CC=CC=C1)CCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)F)=O)C | C23H23FN4O2
